US07834021B2
N-[2-({(3R)-1-[4-Hydroxy-4-(2 isopropyl-1,3-thiazol-5-yl)cyclohexyl]pyrrolidin -3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide.
To a Parr hydrogenation bottle was added 4-hydroxy-4-(2-isopropyl-1,3-thiazol-5-yl)cyclohexanone (0.363 g, 1.52 mmol) and N-[2-oxo-2-({2-oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}amino)ethyl]-3-(trifluoromethyl)benzamide (0.435 g, 1.38 mmol), dissolved in CH2Cl2 (20 mL), followed by the addition of 10% Pd(OH)2 (0.8 g). This mixture was hydrogenated at 50 psi for 24 hour. After the catalyst was filtered and washed with methanol, the filtrate was concentrated in vacuo and chromatographed to give 0.345 g of title compound in 62% yield. MS (EI) calcd: (M+I)+=539.2; found: 539.1.

reactant | 4-hydroxy-4-(2-isopropyl-1,3-thiazol-5-yl)cyclohexanone | 1.52 mmol, 0.363 g | OC1(CCC(CC1)=O)C1=CN=C(S1)C(C)C | C12H17NO2S
reactant | N-[2-oxo-2-({2-oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}amino)ethyl]-3-(trifluoromethyl)benzamide | 1.38 mmol, 0.435 g | O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)NCC(N[C@H]1CNCC1)=O | C16H19F3N4O3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(OH)2 | 0.8 g | [OH-].[OH-].[Pd+2]
product | N-[2-({(3R)-1-[4-Hydroxy-4-(2 isopropyl-1,3-thiazol-5-yl)cyclohexyl]pyrrolidin -3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | 0.345 g, 62% yield | OC1(CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C1=CN=C(S1)C(C)C | C26H33F3N4O3S
